US04404138
3-[2-(3-Azabicyclo[3.3.1]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 13 from 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.014 moles), triethylamine (4.2 ml, 0.030 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane (3.3 g, 0.015 moles). The reflux time is 72 hours. Recrystallization from ethanol gave the product (3.6 g), mp 150°-152° C.

reactant | 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.014 moles, 3.0 g | CC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO2
reactant | triethylamine | 0.030 moles, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.3.1]nonane | 0.015 moles, 3.3 g | ClCCN1CC2CCCC(C1)C2 | C10H18ClN
product | 3-[2-(3-Azabicyclo[3.3.1]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 3.6 g | C12CN(CC(CCC1)C2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)C | C23H30N2O2
